US06903126B2
6-[(2-Benzylmercapto-1-phenyl-1H-benzimidazol-6-yl)oxy]hexanoic acid methyl ester
490 mg of 6-[(2-mercapto-1-phenyl-1H-benzimidazol-6-yl)oxy]hexanoic acid methyl ester was dissolved in 7 ml of N,N-dimethylformamide, mixed with 0.19 ml of benzyl bromide, 278 mg of potassium bicarbonate and 49 mg of dicyclohexano-18-crown-6, and the mixture was stirred for 15 hours at 20° C. It was filtered, and the filtrate was concentrated by evaporation in a vacuum. The residue was purified by column chromatography on silica gel. 548 mg was obtained.

reactant | 6-[(2-mercapto-1-phenyl-1H-benzimidazol-6-yl)oxy]hexanoic acid methyl ester | 490 mg | COC(CCCCCOC=1C=CC2=C(N(C(=N2)S)C2=CC=CC=C2)C1)=O | C20H22N2O3S
reactant | benzyl bromide | 0.19 ml | C(C1=CC=CC=C1)Br | C7H7Br
reactant | potassium bicarbonate | 278 mg | C([O-])(O)=O.[K+]
reactant | dicyclohexano-18-crown-6 | 49 mg | C1CCC2C(C1)OCCOCCOC3CCCCC3OCCOCCO2 | C20H36O6
solvent | N,N-dimethylformamide | 7 ml | CN(C=O)C | C3H7NO
product | 6-[(2-Benzylmercapto-1-phenyl-1H-benzimidazol-6-yl)oxy]hexanoic acid methyl ester | COC(CCCCCOC=1C=CC2=C(N(C(=N2)SCC2=CC=CC=C2)C2=CC=CC=C2)C1)=O | C27H28N2O3S
